US07135480B2
1-Benzoyl-3-cyano-4-methyl-pyrrolo[1,2-a]quinoline
3-Methyl-1-phenacyl-quinolinium bromide: The title compound was prepared from 2-bromo-1-phenyl-ethanone (481 mg, 2.405 mmol), 3-methyl-quinoline (296 mg, 2.08 mmol) and acetonitrile (5 mL), similar to Example 1a, and yielded 640 mg (89%) as an off white solid: 1H NMR (CDCl3) 0.38 (d, J=1.8 Hz, 1H), 8.74 (s, 1H), 8.31 (m, 1H), 8.28 (m, 1H), 8.17 (dd, J=1.5, 8.4 Hz, 1H), 8.01 (m, 1H), 7.94–7.87 (m, 2H), 7.71 (m, 1H), 7.57 (t, J=7.8 Hz, 2H), 7.49 (s, 2H), 2.81 (s, 3H).

reactant | 3-Methyl-1-phenacyl-quinolinium bromide | [Br-].CC=1C=[N+](C2=CC=CC=C2C1)CC(=O)C1=CC=CC=C1
reactant | 2-bromo-1-phenyl-ethanone | 2.405 mmol, 481 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 3-methyl-quinoline | 2.08 mmol, 296 mg | CC=1C=NC2=CC=CC=C2C1 | C10H9N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-Benzoyl-3-cyano-4-methyl-pyrrolo[1,2-a]quinoline | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1C1=CC=CC=C1C=C2C)C#N | C21H14N2O
